US07777047B2
N-{6-chloro-2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide
A mixture of 6-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide (0.60 g), bromomalonaldehyde (0.38 g) and N,N-dimethylacetamide (10 ml) was stirred at 90° C. for 3 hr. Water was added to the reaction mixture, and the resulting crystals were collected by filtration, washed with water, and dried. To a mixture of the obtained crystals, tetrahydrofuran (10 ml) and methanol (5 ml) was added sodium borohydride (70 mg) at 0° C., and the mixture was stirred at the same temperature for 30 min. 10% Aqueous citric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to give the title compound (0.38 g, yield 54%) as pale-yellow crystals from a fraction eluted with tetrahydrofuran-hexane (2:1, volume ratio). melting point 214-215° C.

reactant | 6-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 0.60 g | ClC1=CC=C2C=C(NC2=C1N(S(=O)(=O)C=1SC=CC1)C)C(N)=S | C14H12ClN3O2S3
reactant | bromomalonaldehyde | 0.38 g | BrC(C=O)C=O | C3H3BrO2
reactant | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
solvent | Water | O | H2O
product | N-{6-chloro-2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.38 g, yield 54% | ClC1=CC=C2C=C(NC2=C1N(S(=O)(=O)C=1SC=CC1)C)C=1SC(=CN1)CO | C17H14ClN3O3S3
